US06699992B2
76.0 g of ethyl 3-cyano-2,4-dichloro-5-fluorobenzoylacetate (0.25 mol), 66.6 g of triethyl orthoformate (0.45 mol) and 77.4 g of diacetyl oxide (0.72 mol) were stirred at 150° C. for 2.5 hours. Fractions having a lower boiling point were evaporated under reduced pressure. To the residue was added 250 ml of anhydrous ethanol. 14.5 g of cyclopropylamine (0.25 mol) was added to the solution and the reaction was then carried out for 2 hours. The resulting mixture was filtered under suction. The residue was recrystallized from a mixture of petroleum ether and cyclohexane to yield 65.0 g (0.175 mol) of ethyl 2-(3-cyano-2,4-dichloro-5-fluorobenzoyl)-3-cyclopropylaminoacrylate in 70.1% yield.

reactant | ethyl 3-cyano-2,4-dichloro-5-fluorobenzoylacetate | 0.25 mol, 76.0 g | C(#N)C=1C(=C(C(=O)CC(=O)OCC)C=C(C1Cl)F)Cl | C12H8Cl2FNO3
reactant | triethyl orthoformate | 0.45 mol, 66.6 g | C(OCC)(OCC)OCC | C7H16O3
reactant | diacetyl oxide | 0.72 mol, 77.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | cyclopropylamine | 0.25 mol, 14.5 g | C1(CC1)N | C3H7N
product | ethyl 2-(3-cyano-2,4-dichloro-5-fluorobenzoyl)-3-cyclopropylaminoacrylate | 0.175 mol, 65.0 g, 70.1% yield | C(#N)C=1C(=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C1Cl)F)Cl | C16H13Cl2FN2O3
